US09034900B2
Step 2: 5-bromo-3-hydroxy-1-methylpyridin-2-one
To a solution of 5-bromo-3-methoxy-1-methylpyridin-2-one (5.60 g, 25.7 mmol) stirred at 0° C. in DCM (100 mL) was added BBr3 (12.87 g, 51.4 mmol). The icebath was removed and the mixture was stirred at rt for 5 h. After the mixture was cooled to 0° C., it was quenched with MeOH (5 mL), concentrated to near dryness and purified by column chromatography on silica gel to give title compound (3 g, 57%) as a white solid. 1H NMR (CDCl3, 400 MHz) δ 7.49 (s, 1H), 6.80 (s, 1H), 3.44 (s, 3H). LCMS (M+H)+=205.

reactant | 5-bromo-3-methoxy-1-methylpyridin-2-one | 25.7 mmol, 5.60 g | BrC=1C=C(C(N(C1)C)=O)OC | C7H8BrNO2
reactant | BBr3 | 51.4 mmol, 12.87 g | B(Br)(Br)Br | BBr3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-3-hydroxy-1-methylpyridin-2-one | 3 g, 57% | BrC=1C=C(C(N(C1)C)=O)O | C6H6BrNO2
